US08227468B2
Racemic-trans-4-amino-6-bromo-chroman-3-ol
To a solution of racemic-trans-3,6-dibromochroman-4-ol (30.0 g, 97.4 mmol) in isopropyl alcohol (300 mL) at ambient temperature (500 mL), add ammonium hydroxide (28-30% aq., 150 mL, 2.2 mol). Stir slowly for 15 hr. Filter the reaction mixture and dilute the filtrate with water (200 mL). Concentrate the resulting solution under reduced pressure to one half of its original weight. Add water (100 mL), stir the mixture at ambient temperature for 10 min., then cool to 0-5° C. and stir for an additional 30 min. Collect the precipitate by filtration and wash the solids with water (25 mL) and heptanes (25 mL). Vacuum dry the material at 40° C. to afford the title compound as a pale yellow solid (21.2 g, 89.2%). 1H NMR (DMSO-d6) δ 1.96 (bs, 2H), 3.53 (m, 2H), 3.87 (dd, 1H), 4.11 (dd, 1H), 5.15 (bs, 1H), 6.66 (d, 1H), 7.19 (dd, 1H), 7.48 (dd, 1H). LC-ES/MS m/z (79Br) 244 [M+H].

reactant | racemic-trans-3,6-dibromochroman-4-ol | 97.4 mmol, 30.0 g | Br[C@@H]1COC2=CC=C(C=C2[C@H]1O)Br | C9H8Br2O2
reactant | ammonium hydroxide | 2.2 mol, 150 mL | [OH-].[NH4+]
solvent | isopropyl alcohol | 300 mL | C(C)(C)O | C3H8O
product | Racemic-trans-4-amino-6-bromo-chroman-3-ol | 21.2 g, 89.2% | N[C@H]1[C@@H](COC2=CC=C(C=C12)Br)O | C9H10BrNO2
